US08623857B2
A mixture of bromoimidazole Int-22a (98 mg, 0.20 mmol), 1-(phenylsulfonyl)-3-indazole boronic acid (73 mg, 0.24 mmol) and sodium hydrogen phosphate (86 mg, 0.61 mmol) in 1,4-dioxane (4 mL) and water (2 mL) at r.t. was purged with nitrogen gas for 5 min in a microwave vial. Tetrakistriphenylphosphorous palladium was added. The mixture was heated in a microwave reactor at 110° C. for 1 h. Water and ethyl acetate were added, and the layers were separated. The separated aqueous layer was extracted with ethyl acetate. The separated organic layer was dried (MgSO4) and filtered. The solvents were removed in vacuo and chromatographic purification (ethyl acetate-hexane) of the residue gave indole Int-22b (112 mg, 84%) as a colorless oil.

reactant | bromoimidazole | BrC=1NC=CN1 | C3H3BrN2
reactant | 1-(phenylsulfonyl)-3-indazole boronic acid | 0.24 mmol, 73 mg | C1(=CC=CC=C1)S(=O)(=O)N1N=C(C2=CC=CC=C12)B(O)O | C13H11BN2O4S
reactant | sodium hydrogen phosphate | 0.61 mmol, 86 mg | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | indole | N1C=CC2=CC=CC=C12 | C8H7N
